US06600038B1
In 60 ml of ethanol, 6.1 g of 1-tert-butoxycarbonyl-3-ethoxycarbonyl-4-piperidone was dissolved, and subsequently, 100 mg of platinum oxide was added thereto, followed by stirring for 2 hours at room temperature under a hydrogen atmosphere. After the platinum oxide was filtered off using celite, the filtrate was concentrated under reduced pressure to yield crude 1-tert-butoxycarbonyl-3-ethoxycarbonyl-4-hydroxypiperidine. The obtained crude 1-tert-butoxycarbonyl-3-ethoxycarbonyl-4-hydroxypiperidine was dissolved in 100 ml of chloroform, and subsequently, 11.4 g of triethylamine and 0.55 g of 4-dimethylaminopyridine were added thereto. Methanesulfonyl chloride in an amount of 6.2 g was added dropwise thereto with ice-cooling. The reaction mixture was stirred for 5.5 hours at room temperature. The reaction mixture was washed successively with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, and subsequently, was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure to yield crude 1-tert-butoxycarbonyl-3-ethoxycarbohylpiperidin-4-yl methanesulfonate. The obtained crude 1-tert-butoxycarbonyl-3-ethoxycarnonylpiperidin-4-yl methanesulfonate was dissolved in 50 ml of benzene, and 3.4 g of 1,8-diazabicyclo[5.4.0]-7-undecene was added thereto, followed by heating under reflux for 30 minutes. After the reaction mixture was cooled to room temperature, it was washed with a 5% aqueous solution of potassium hydrogensulfate and saturated brine, and was then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=10:1 to 6:1) to yield 5.3 g of 1-tert-butoxycarbonyl-5-ethoxycarbonyl-1,2,3,6-tetrahydropyridine as an oil.

reactant | 1-tert-butoxycarbonyl-3-ethoxycarbonyl-4-piperidone | 6.1 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OCC | C13H21NO5
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | platinum oxide | 100 mg | [Pt]=O
product | 1-tert-butoxycarbonyl-3-ethoxycarbonyl-4-hydroxypiperidine | C(C)(C)(C)OC(=O)N1CC(C(CC1)O)C(=O)OCC | C13H23NO5
